US08710100B2
2-Ethoxy-3-(4-nitrophenyl)acrylic acid (18.4 g wet, approx. 77.5 mmol) was dissolved in MeOH (1.1 L) and 10% Pd on C (wet basis) (1.84 g) was added. The mixture was hydrogenated at 12 psi for 10 mins, followed by repeated refill to 20-28 psi every 10-m 20 mins for 5 hr then 46 psi for 18 hr. The mixture was filtered through GF/F paper and the residue was slurried in IMS (100 ml), filtered, washed with heptane (100 ml), and suction dried on the filter. Thus (±)-2-ethoxy 3-(4′-Aminophenyl)-propionic acid was obtained as an off-white solid (11.2 g, 69%).

reactant | 2-Ethoxy-3-(4-nitrophenyl)acrylic acid | approx. 77.5 mmol, 18.4 g | C(C)OC(C(=O)O)=CC1=CC=C(C=C1)[N+](=O)[O-] | C11H11NO5
solvent | MeOH | 1.1 L | CO | CH4O
catalyst | Pd | [Pd] | Pd
product | (±)-2-ethoxy 3-(4′-Aminophenyl)-propionic acid | C(C)OC(C(=O)O)CC1=CC=C(C=C1)N | C11H15NO3
